US04362728
Dimethyl (cyanoimido)dithiocarbonate (0.08 g.) was added to a solution of 4-[2-(2,2,2-trifluoroethyl)-guanidino]-2-(4-aminobutylthio)pyrimidine (0.17 g.) in acetonitrile (2 ml.) and the solution left at room temperature for 18 hours and then evaporated to dryness to give 4-[2-(2,2,2-trifluoroethyl)guanidino]-2-[4-(3-cyano-2-methylisothioureido)butylthio]pyrimidine, characterised as the hydrogen maleate m.p. 181°-183°.

reactant | 4-[2-(2,2,2-trifluoroethyl)-guanidino]-2-(4-aminobutylthio)pyrimidine | 0.17 g | FC(CN=C(NC1=NC(=NC=C1)SCCCCN)N)(F)F | C11H17F3N6S
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
product | 4-[2-(2,2,2-trifluoroethyl)guanidino]-2-[4-(3-cyano-2-methylisothioureido)butylthio]pyrimidine | FC(CN=C(NC1=NC(=NC=C1)SCCCCNC(SC)=NC#N)N)(F)F | C14H19F3N8S2
